US07786165B2
methyl 3-(4-{(4-{[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]methoxy}benzyl)[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate
To a solution of methyl 3-(4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (182 mg, 0.5 mmol), (4-{[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]methoxy}phenyl)methanol (156 mg, 0.5 mmol) and triphenylphosphine (262 mg, 1.0 mmol) in dichloromethane (5 mL) was added diethyl azodicarboxylate (40% toluene solution, 435 mg, 1.0 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was purified by silica gel column chromatography (10%-80% ethyl acetate/hexane) to give a yellow oil containing the title compound.

reactant | methyl 3-(4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 0.5 mmol, 182 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC1=CC=C(C=C1)CCC(=O)OC | C16H16N2O6S
reactant | (4-{[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]methoxy}phenyl)methanol | 0.5 mmol, 156 mg | FC1=CC=C(C=C1)C1=C(C=NN1C)COC1=CC=C(C=C1)CO | C18H17FN2O2
reactant | triphenylphosphine | 1.0 mmol, 262 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.0 mmol, 435 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | methyl 3-(4-{(4-{[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]methoxy}benzyl)[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | FC1=CC=C(C=C1)C1=C(C=NN1C)COC1=CC=C(CN(C2=CC=C(C=C2)CCC(=O)OC)S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])C=C1 | C34H31FN4O7S
